US07683064B2
Preparation of 2-Methyl-2-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-propionaldehyde:
2-[2-(4-Methoxy-benzyl)-1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl]-2-methyl-propionaldehyde (420 mg, 1.25 mmol) was taken up in trifluoroacetic acid (5 mL) and the resulting mixture was stirred at 80° C. for 2.5 hours and then cooled to room temperature. The trifluoroacetic acid was removed under reduced pressure at 60° C., and then co-evaporated with ethyl acetate (5×). The residue was taken up in ethyl acetate (175 mL) and then washed with water (3×50 mL) and finally with brine (1×50 mL). The ethyl acetate layer was dried over magnesium sulfate, filtered and concentrated to give the crude product. Purification on silica gel eluting with a gradient of 50% ethyl acetate in hexanes to neat ethyl acetate gave the title compound as a white powder (228 mg). MS (ESI) 218.0 (M+H)+.

reactant | 2-[2-(4-Methoxy-benzyl)-1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl]-2-methyl-propionaldehyde | 1.25 mmol, 420 mg | COC1=CC=C(CN2C(C3=CC=C(C=C3CC2)C(C=O)(C)C)=O)C=C1 | C21H23NO3
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Methyl-2-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-propionaldehyde | 228 mg | CC(C=O)(C)C=1C=C2CCNC(C2=CC1)=O | C13H15NO2
